US08334236B2
(4) Production of ethyl 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate
7.40 g (30.5 mmol) of 2-(2-methoxybenzylamino)nicotinaldehyde was dissolved in ethanol (100 mL), and 7.34 g (45.8 mmol) of diethyl malonate and 0.95 g (10.0 mmol) of piperidine were added thereto. The resulting mixture was stirred for 48 hours at 100° C. The mixture was cooled, and a solid precipitated thereby was separated by filtration. The solid was washed with hexane, and thus 7.71 g (yield: 75%) of the title compound was obtained as a pale yellow solid.

reactant | 2-(2-methoxybenzylamino)nicotinaldehyde | 30.5 mmol, 7.40 g | COC1=C(CNC2=C(C=O)C=CC=N2)C=CC=C1 | C14H14N2O2
reactant | diethyl malonate | 45.8 mmol, 7.34 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 10.0 mmol, 0.95 g | N1CCCCC1 | C5H11N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylate | 7.71 g, yield: 75% | COC1=C(CN2C(C(=CC3=CC=CN=C23)C(=O)OCC)=O)C=CC=C1 | C19H18N2O4
